US09388197B2
A.1.9.6. 6,7-Dihydro-5H-pyrano[2,3-d]thiazol-7-ol
A soln. of 7-((tetrahydro-2H-pyran-2-yl)oxy)-6,7-dihydro-5H-pyrano[2,3-d]thiazole (895 mg, 3.71 mmol) and PTSA (141 mg, 0.74 mmol) in THF/H2O (7.4 mL, 1:1) was stirred at RT overnight. The mixture was diluted with DCM, dried over Na2SO4, and conc. in vacuo. Purification by means of CC (40-100% EtOAc/Hept) provided a yellow oil.

reactant | 7-((tetrahydro-2H-pyran-2-yl)oxy)-6,7-dihydro-5H-pyrano[2,3-d]thiazole | 3.71 mmol, 895 mg | O1C(CCCC1)OC1CCOC=2N=CSC21 | C11H15NO3S
reactant | PTSA | 0.74 mmol, 141 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | THF H2O | 7.4 mL | C1CCOC1.O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6,7-Dihydro-5H-pyrano[2,3-d]thiazol-7-ol | S1C=NC2=C1C(CCO2)O | C6H7NO2S
